US06140351
In a similar manner to that described in Paragraph F above, to a solution of theobromine (1.06 g, 5.9 mmol), N,N-diethylhydroxylamine (0.45 g, 5.0 mmol), N-(5-chloropyridin-2-yl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (0.32 g, 0.6 mmol), and DMF (40 mL) was added K2CO3 (0.74 g, 5.3 mmol). The mixture was stirred at 40° C. for 6 days, then it was poured into water. The solid was isolated by filtration. Purification by recrystallization from CH2Cl2 and CH3OH afforded N-(5-chloropyridin-2-yl)-2-[((4-((2,3,4,5,6,7-hexahydro-3,7-dimethyl-2,6-dioxo-1H-purin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide, as a white solid; NMR (DMSO-d6) 10.90 (s, 1H), 9.40 (s, 1H), 8.36 (d, 1H), 8.12 (d, 1H), 8.06 (s, 1H), 7.90 (dd, 1H), 7.55 (s, 1H), 7.38 (d, 1H), 7.27 (d, 1H), 4.97 (s, 2H), 3.90 (s, 6H), 3.40 (s, 3H) ppm.

reactant | theobromine | 5.9 mmol, 1.06 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | N,N-diethylhydroxylamine | 5.0 mmol, 0.45 g | C(C)N(O)CC | C4H11NO
reactant | N-(5-chloropyridin-2-yl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 0.6 mmol, 0.32 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CCl)=O | C19H13Cl4N3O3S
reactant | K2CO3 | 5.3 mmol, 0.74 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-(5-chloropyridin-2-yl)-2-[((4-((2,3,4,5,6,7-hexahydro-3,7-dimethyl-2,6-dioxo-1H-purin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CN1C(N(C2N=CN(C2C1=O)C)C)=O)=O | C26H22Cl3N7O5S
